US06664256B1
Preparation of 6-(2,3-difluorophenoxy)-3-(4-methoxyphenyl)-4-phenylpyridazine
In a similar manner as in Example 2, 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine (210 mg, 0.708 mmol) and 2,3-difluorophenol were reacted as starting materials at 150° C. for 20 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless prisms (230.3 mg, 83.4%). Melting point: 155.2-156.6° C. (ethyl acetate-hexane).

reactant | 6-chloro-3-(4-methoxyphenyl)-4-phenylpyridazine | 0.708 mmol, 210 mg | ClC1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C17H13ClN2O
reactant | 2,3-difluorophenol | FC1=C(C=CC=C1F)O | C6H4F2O
product | 6-(2,3-difluorophenoxy)-3-(4-methoxyphenyl)-4-phenylpyridazine | FC1=C(OC2=CC(=C(N=N2)C2=CC=C(C=C2)OC)C2=CC=CC=C2)C=CC=C1F | C23H16F2N2O2
